* LLC Resonant Converter Xyce
VIN vin 0 DC 400

* Half-Bridge Inverter
S1 vin vx pwm 0 SW_IDEAL
S2 vx 0 pwm_inv 0 SW_IDEAL

* Snubbers
Rs1 vin vx 1k
Cs1 vin vx 1n
Rs2 vx 0 1k
Cs2 vx 0 1n

* Resonant Tank
Cr vx vr 22n
Lr vr vp 100u
Lm vp 0 400u

* Transformer
Lpri vp 0 1000u
Lsec1 vy 0 10u
Lsec2 0 vz 10u
K1 Lpri Lsec1 0.99
K2 Lpri Lsec2 0.99
K3 Lsec1 Lsec2 0.99

* Rectifier and Output Filter
D1 vy vout D_IDEAL
D2 vz vout D_IDEAL
* Secondary Snubbers
Rd1 vy vout 1k
Cd1 vy vout 1n
Rd2 vz vout 1k
Cd2 vz vout 1n

Cout vout 0 470u IC=0
Rout vout 0 20

* PWM sources (100kHz, ~50% duty cycle with dead time)
V_PWM pwm 0 PULSE(0 10 0 10n 10n 4.8e-06 1e-05)
V_PWM_INV pwm_inv 0 PULSE(0 10 5e-06 10n 10n 4.8e-06 1e-05)

.model SW_IDEAL VSWITCH(RON=10m ROFF=1Meg VON=5.5 VOFF=4.5)
.model D_IDEAL D(IS=1e-14 N=1 RS=10m)

.options TIMEINT METHOD=Gear MAXORD=2 ABSTOL=1e-6 RELTOL=0.001
.options NONLIN-TRAN MAXSTEP=200 MAXSEARCHSTEP=5

.tran 10n 1m 0 10n UIC

.print TRAN FORMAT=PROBE V(vin) V(vout) V(pwm) V(pwm_inv) I(Lr) V(vx) I(Lpri)
.end
